US05232940
To a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1-hydroxyethyl)-4-trifluoromethylthiopyrazole (1.1 g) in dichloromethane (40 ml) was added pyridinium chlorochromate (0.62 g), and the mixture stirred at room temperature overnight. Ether (50 ml) was added and the mixture filtered on diatomaceous earth. Evaporation of the filtrate in vacuo gave a brown solid, which was triturated with hexane and filtered. The filtrate was evaporated in vacuo to give a yellow solid, which recrystallised from cyclohexane to give 3-acetyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole (0.4 g) in the form of a yellow solid, m.p. 89°-91° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1-hydroxyethyl)-4-trifluoromethylthiopyrazole | 1.1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)SC(F)(F)F)C(C)O | C13H8Cl2F6N2OS
reactant | pyridinium chlorochromate | 0.62 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | Ether | 50 ml | CCOCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-acetyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole | 0.4 g | C(C)(=O)C1=NN(C=C1SC(F)(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H6Cl2F6N2OS
